US07981903B2
A solution of 2-({2-{[(2R)-1-(N,N-dimethylglycyl)-2-methyl-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluoro-N-methylbenzamide (278 mg, 0.397 mmol) in dioxane (10 mL) and a 2M aqueous NaOH solution (2 mL) was heated at 80° C. for 6 h. The resulting mixture was allowed to cool to rt, diluted with EtOAc (50 mL) and a saturated NaCl solution (10 mL). The organic layer was concentrated onto Celite and purified by silica gel chromatography using 1-10% MeOH (containing 0.2% NH3)/CH2Cl2 to afford 2-[(2-{[(2R)-1-(N,N-dimethylglycyl)-2-methyl-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluoro-N-methylbenzamide as a pink solid (172 mg, 79%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.25 (d, J=5.68 Hz, 3H), 2.27 (s, 6H), 2.59 (d, J=15.57 Hz, 1H), 2.80 (d, J=4.58 Hz, 3H), 3.07 (d, J=14.28 Hz, 1H), 3.24-3.46 (m, 2H), 3.80 (s, 3H), 4.71-4.85 (m, 1H), 6.29 (dd, J=3.02, 1.74 Hz, 1H), 6.85-7.07 (m, 3H), 7.26-7.43 (m, 1H), 7.54 (s, 1H), 8.32 (d, J=8.24 Hz, 1H), 8.55 (dd, J=4.40, 1.65 Hz, 1H), 8.64 (s, 1H), 10.15 (s, 1H), 11.30 (s, 1H). ESIMS (M+H)+=547.43; Optical rotation +11.0 (1 mg/mL MeOH, rt).

reactant | 2-({2-{[(2R)-1-(N,N-dimethylglycyl)-2-methyl-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluoro-N-methylbenzamide | 0.397 mmol, 278 mg | CN(CC(=O)N1[C@@H](CC2=CC(=C(C=C12)NC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)NC2=C(C(=O)NC)C(=CC=C2)F)OC)C)C | C35H37FN8O5S
reactant | NaOH | 2M, 2 mL | [OH-].[Na+]
reactant | NaCl | 10 mL | [Na+].[Cl-]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 2-[(2-{[(2R)-1-(N,N-dimethylglycyl)-2-methyl-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluoro-N-methylbenzamide | 172 mg, 79% | CN(CC(=O)N1[C@@H](CC2=CC(=C(C=C12)NC1=NC(=C2C(N1)=NC=C2)NC2=C(C(=O)NC)C(=CC=C2)F)OC)C)C | C28H31FN8O3
